US04220646
The 1-chlorocarbonyl-4-propionylpiperazine used as starting material can be prepared as follows. Anhydrous piperazine (120 g.) and propionamide (m.p. 80° C., 102 g.) in anhydrous xylene (100 cm3) are heated under reflux for 48 hours in the presence of iodine (0.9 g.) to give 1-propionylpiperazine hydrochloride (153.0 g.), m.p. 165° C. 1-Propionylpiperazine is liberated from its hydrochloride by the action of an excess of ammonia in diethyl ether. The ammonium chloride formed is separated by filtration and the 1-propionylpiperazine is isolated by evaporation of the ether.

reactant | 1-chlorocarbonyl-4-propionylpiperazine | ClC(=O)N1CCN(CC1)C(CC)=O | C8H13ClN2O2
reactant | piperazine | 120 g | N1CCNCC1 | C4H10N2
reactant | propionamide | 102 g | C(CC)(=O)N | C3H7NO
solvent | xylene | 100 cm3 | C=1(C(=CC=CC1)C)C | C8H10
catalyst | iodine | 0.9 g | II | I2
product | 1-propionylpiperazine hydrochloride | 153.0 g | Cl.C(CC)(=O)N1CCNCC1 | InChI=1S/C7H14N2O.ClH/c1-2-7(10)9-5-3-8-4-6-9;/h8H,2-6H2,1H3;1H
